US04234513
558 Parts of aniline, 479 parts of ammonium rhodanide and 78 parts of a 40% aqueous sodium bisulfite solution are introduced successively into 592 parts of a 37% aqueous hydrochloric acid. This reaction mixture is at first stirred for 8 hours at 80° C., then for 8 hours at 90° C., thereafter cooled to 20° C.; the precipitate formed is filtered off with suction, washed until neutral and dried. 888 Parts (corresponding to 97.4% of the theory) of phenyl thiourea are obtained, which product has a melting point in the range of from 148° to 150° C.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | ammonium rhodanide | C(#N)S.N
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
product | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
